US05723450
3-Chloro-2-isopropyl-4-(cis-4-phenylcyclohexylamino)pyridine
Was prepared analogously to Example 75 starting from 4-amino-3-chloro-2-isopropylpyridine and 4-phenylcyclohexanone. Yield: 26.6%

reactant | 4-amino-3-chloro-2-isopropylpyridine | NC1=C(C(=NC=C1)C(C)C)Cl | C8H11ClN2
reactant | 4-phenylcyclohexanone | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
product | 3-Chloro-2-isopropyl-4-(cis-4-phenylcyclohexylamino)pyridine | Yield: 26.6% | ClC=1C(=NC=CC1N[C@@H]1CC[C@@H](CC1)C1=CC=CC=C1)C(C)C | C20H25ClN2
